US07432293B2
c) 3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-benzoic acid
In a 25 ml flask, 0.93 g (3.1 mmol) of 3-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester are dissolved in 17 ml of dioxane. Then, 4.7 ml of an aqueous lithium hydroxide solution (1M, 4.7 mmol, 1.5 eq.) are added and the cloudy mixture is stirred for 6 h at room temperature. Now, the dioxane is removed in vacuo, 20 ml of water are added and the pH of the solution is adjusted to 2. The resulting precipitate is filtered and washed with water and CH2Cl2. This yields, after drying, the title compound. Mass spectrum: m/z (M−H)−: 283.0

reactant | 3-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester | 3.1 mmol, 0.93 g | COC(C1=CC(=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)F)=O | C16H11FN2O3
reactant | lithium hydroxide | 4.7 mmol, 1M, 4.7 ml, 1.5 eq. | [OH-].[Li+]
solvent | dioxane | 17 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-benzoic acid | FC1=CC=C(C=C1)C1=NOC(=N1)C=1C=C(C(=O)O)C=CC1 | C15H9FN2O3
